Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4]#[C:5][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.25873703178
[C:1]#[C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])[H:7].[C:8]([H:9])([H:10])[H:11],4.74410645511
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11],-0.784721579891
[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3][H:4]>>[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-6.02552948428
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.83390719436
[H:1][C:2]#[C:4][O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-2.24988391374
[C:1]=[C:2]1[O:3][O:4][C:5]([H:6])=[C:7]1[H:8]>>[C:1]#[C:2]/[C:7](=[C:5](/[O:4][O:3])[H:6])[H:8],1.1646408097799998
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8])[C:12]([H:13])([H:14])[H:15],5.02708554539
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]/[C:2]([O:3][H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-3.5627677390800003
[C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2]#[C:3][O:4][C:5]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[O:9][H:10],-3.15324756464
[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])[O:6][H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],1.05245471174
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])#[C:5][H:6].[H:1][C:2][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],2.56762984995
[C:1](#[C:2]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12])[H:3]>>[C:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],2.06646058066
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],1.46416164793
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:10].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9],3.26570983921
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12],-5.132993859719999
[H:15].[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.43264695545
[C:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:1](=[C:2]([H:10])[H:12])([H:9])[H:13].[C:3]([H:4])([H:5])([O:6][H:7])[C:8]#[C:11],0.826237480019
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],4.73135311366
[H:1][O:2][C:3]1([O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[C:10]1([H:11])[H:12]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])=[C:8][H:9])[C:10]([H:11])[H:12],3.14262679107
[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]#[C:8][H:9]>>[C:8][H:9].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7],7.74283843339
[C:1]([C:2]([H:3])([H:4])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13])([H:6])[H:7].[C:5]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-3.9434269078300006
[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-1.52701216972
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11],4.62183367429
[C:7](=[O:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]([H:10])([H:11])[H:12],-3.25178236045
[H:1][C:2]1[O:3][O:4][C@@:5]1([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1]/[C:2]([O:3][O:4])=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10],-0.71697977331
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:4],1.79970164385
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]=[O:7].[H:8]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8],-1.34687241539
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([O:7][H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.464962884369999
